US06387919B1
2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3dihydro-1-H-indole-5-sulfonic acid amide
The title compound was prepared from 1H-indole-2,3-dione-5-sulfonic acid amide and 4-sulfonamidophenylhydrazine hydrochloride according to Procedure G: mp>250° C.; 1H NMR (DMSO-d6): δ 7.04 (d, J=8.4 Hz, 1H), 7.25 (s, 2H), 7.26 (s, 2H), 7.60 (d, J 8.9 Hz, 2H), 7.70 (dd, J=8.2, 1.9 Hz, 1H), 7.78 (d, J=8.7 Hz, 2H), 7.98 (d, J=1.6 Hz, 1H), 11.43 (s, 1H), 12.75 (s, 1H); APCI−MS m/z 395 (M)−. Anal. Calcd for C14H13N5O5S2.0.5 H2O: C, 41.58; H, 3.49; N, 17.32; S, 15.86. Found: C, 41.67; H, 3.46; N, 17.26; S, 15.78.

reactant | 1H-indole-2,3-dione-5-sulfonic acid amide | N1C(C(C2=CC(=CC=C12)S(=O)(=O)N)=O)=O | C8H6N2O4S
reactant | 4-sulfonamidophenylhydrazine hydrochloride | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
solvent | H2O | O | H2O
product | 2-Oxo-3-[(4-sulfamoyl-phenyl)-hydrazono]-2,3dihydro-1-H-indole-5-sulfonic acid amide | O=C1NC2=CC=C(C=C2C1=NNC1=CC=C(C=C1)S(N)(=O)=O)S(=O)(=O)N | C14H13N5O5S2
